Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ___
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Agitation, Confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with CKD, DMII, HTN, newly diagnosed HFpEF recently admitted 
___ for IPH and ___ ___ fall iso syncope presenting from 
rehab with acute onset agitation.  
Per notes from rehab, he became acutely agitated this AM, 
touching staff inappropriately and refusing his morning labwork 
or medications. Staff were concerned for this acute change and 
he was sent to ___ for workup. At ___ ED he was pleasant and 
oriented only to self (recent baseline). He was unaware of the 
agitation event earlier in the day. He reported some diarrhea of 
unknown severity or duration that was unique from rehab reports. 
His ROS was otherwise  
negative for HA, visual changes, SOB, cough, fevers, chills,  
abdominal pain, or dysuria. Of note, patient was recently 
admitted from ___ for traumatic R. temporal IPH, 
SDH, and temporal fracture in the setting of syncope thought ___ 
orthostatic hypotension. Neurosurgery and ENT managed 
conservatively. Workup was negative otherwise for seizure by 
EEG, cardiac etiologies by EKG, TTE without AS, no events on 
tele. His orthostatic hypotension was not fluid responsive but 
he was on HCTZ, which was discontinued.  He however was 
initiated on lisinopril and amlodipine to control BP iso IPH. 
His condition improved and he was discharged to rehab with 
neurosurgery evaluation and repeat CT scheduled in 2 months.  
 
In the ED, infectious workup was started, without abnormalities 
noted on CBC, chemistry, or urine. CT demonstrated widening of 
While in the ED he developed agitation attempting to get out of 
the stretcher and remove his clothing. He was given 5 mg of 
olanzapine IM and responded well and acting at baseline.  

In the ED, initial vitals:  
 ___ 10:57  
 97.9F, 60, 130/64, 99% RA  
 - Exam notable for:  
 AOx1, pleasant, comfortable  
 Unremarkable cardiopulmonary exam  
 No abdominal pain or distension  
 No ___ edema  
 Neurologically intact, able to participate with exam and follow 
 
 commands.  
 - Labs notable for:  
 WBC: 5.3 Hgb: 11  
 Creat: 1.3  
 K: 4.9  
 - Imaging notable for:  
 ___ CXR  
 No evidence of pneumonia. Stable cardiomegaly.  
 ___ CT HEAD  
 1. Interval slightly increased ventriculomegaly could represent 
 
 hydrocephalus,especially given prior intraventricular 
hemorrhage.  
 2. No acute intracranial hemorrhage.  
 3. Prior right convexity subdural hematoma no longer 
appreciated.  
 4. Expected evolution of the bilateral temporal lobe 
hemorrhagic  
 contusions.  
 5. Partial nonspecific opacification of the right mastoid air  
 cells.  
 - Neurosurgery was consulted who recommended:  
 No acute neurosurgical intervention with admission for 
infectious  
 workup and AMS workup. If workup negative, to obtain an LP.  
 Follow up as previously scheduled with Dr. ___ repeat CT 
 
 of the head at that time.  
 - Pt given:  
 ___ 12:58 PO LevETIRAcetam 1000 mg  
 ___ 15:19 IM OLANZapine 5 mg  
 - Vitals prior to transfer:  
 ___ 14:35  
 81, 158/64, 17, 99% RA  

On the floor, patient's son verified the above history. Patient 
notes that he felt more confused this morning, and feels better 
now. He understands that he is in the hospital. Unable to tell 
me the year or which hospital we are at. He states that he has 
been having "diarrhea for a week, every other day". Son unable 
to corroborate. Denies CP, SOB, abdominal pain, ___ pain, N/V.  
 
REVIEW OF SYSTEMS:  
Complete ROS obtained and was otherwise negative.  
 
Past Medical History:
- Hypertension
- Hyperlipidemia
- Psoriasis
- Type 2 diabetes c/b retinopathy, nephropathy
- Osteoarthritis
- Coronary artery disease
 
Social History:
___
Family History:
NO hx of bleeding
 
Physical Exam:
ADMISSION PHYSICAL
#ERROR!
VITALS: 97.9F, 100, 160/81, 18, 97% on RA  
GENERAL: AOx3, NAD  
HEENT: PERRLA, 1-2 mm in size.  
NECK: No cervical lymphadenopathy in anterior or posterior 
chains.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops. No JVD.  
LUNGS: Crackles at base of R. lung.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: Psoriatic rash on ___ shins, skin moistened with  
prior steroid topical agent. Toes with whitening at base of  
digits and between digits. No evidence of open wounds.  
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy  
NEUROLOGIC: Moving all 4 extremities spontaneously. ___ strength 
___ UE, ___ strength of ___, however patient appeared confused 
regarding instructions. AAOx1. Impaired concentration as unable 
to list the months of the year backward. 

DISCHARGE PHYSICAL
#ERROR!
VS: Tm 98.0 BP 114/66, HR 98, RR 18 99% RA 
GEN:  Heavyset ___ gentleman, Laying in bed. Cooperative and
alert.
HEENT: Sclerae anicteric, MMM.  
NECK: No frank JVD.
CARDIAC: RRR, normal S1/2, no M/R/G.
LUNGS: Clear to auscultation anteriorly and laterally.
ABDOMEN: Protuberant abdomen. Abdomen is soft, NTND, no rebound
or guarding.
EXTREMITIES: warm, non-edematous, non-tender 
SKIN: plaque-like lesions on ___ shins 
NEUROLOGIC: following commands, moving all 4 extremities 
spontaneously. 
 
Pertinent Results:
ADMISSION LABS
#ERROR!
___ 11:25AM BLOOD WBC-5.3 RBC-4.48* Hgb-11.0* Hct-36.3* 
MCV-81* MCH-24.6* MCHC-30.3* RDW-15.4 RDWSD-44.7 Plt ___
___ 11:25AM BLOOD Neuts-57.8 ___ Monos-8.9 Eos-2.5 
Baso-0.4 Im ___ AbsNeut-3.06# AbsLymp-1.60 AbsMono-0.47 
AbsEos-0.13 AbsBaso-0.02
___ 11:25AM BLOOD Glucose-116* UreaN-25* Creat-1.3* Na-131* 
K-9.4* Cl-97 HCO3-25 AnGap-9*
___ 11:25AM BLOOD cTropnT-<0.01
___ 11:25AM BLOOD Calcium-8.9 Phos-4.6* Mg-1.6
___ 01:02PM BLOOD TSH-1.2
___ 11:48AM BLOOD Lactate-1.9 K-5.9*
___ 01:07PM BLOOD Na-136 K-4.9
___ 11:00AM URINE Color-Straw Appear-Clear Sp ___
___ 11:00AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 11:00AM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 11:00AM URINE Mucous-RARE*
___ 02:11PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

MICRO/PERTINENT RESULTS
#ERROR!
___ 05:45AM BLOOD calTIBC-312 VitB12-340 Ferritn-143 
TRF-240

Urine Culture ___: <10,000 bacteria
Blood Cultures ___: Pending - No Growth To Date

IMAGING
#ERROR!
CXR ___
No evidence of pneumonia.  Stable cardiomegaly.

CT Head w/o Contrast ___. Interval slightly increased ventriculomegaly could represent 
hydrocephalus, especially given prior intraventricular 
hemorrhage.
2. No acute intracranial hemorrhage.
3. Prior right convexity subdural hematoma no longer 
appreciated.
4. Expected evolution of the bilateral temporal lobe hemorrhagic 
contusions.
5. Partial nonspecific opacification of the right mastoid air 
cells.

CXR ___
No evidence of pneumonia.

CT C-spine ___. No acute cervical spine fracture or traumatic malalignment. 
2. Severe spinal canal narrowing from C4 through C7 as well as 
severe 
bilateral neural foraminal stenosis from C3 through C7. 

CT Head w/o contrast ___. Unchanged mixed density extra-axial fluid collection 
overlying the right parietal lobe measuring up to 7 mm in 
maximum thickness.  No evidence of new hemorrhage. 
2. Unchanged encephalomalacia within the bilateral temporal 
lobes, right 
greater than left. 
3. Chronic left temporal bone fracture. 
4. Air-fluid level within the left sphenoid sinus, as well as 
partial 
opacification of the right mastoid air cells, also unchanged 

TIB/FIB XR ___ 
No fracture is detected in the tibia or fibula. There is a small 
enthesophyte at the insertion of the quadriceps tendon along the 
superior aspect of the patella.  Vague radiodensities overlying 
the ankle appear to lie outside of the patient.  Limited 
assessment of the knee and ankle joint is unremarkable. 

Video oropharyngeal swallow ___: 
No evidence of penetration or aspiration. 
Please note that a detailed description of dynamic swallowing as 
well as a 
summative assessment and recommendations are reported separately 
in a 
standalone note by the Speech-Language Pathologist (OMR, Notes, 
Rehabilitation 
Services). 

CT head w/o contrast ___: 
Decrease in size of right parietal subdural now barely 
perceptible and 
measuring 2 mm in thickness.  Otherwise unchanged without 
evidence of new 
hemorrhage or mass effect. 

INTERVAL LABS 
#ERROR!
___ 05:45AM BLOOD calTIBC-312 VitB12-340 Ferritn-143 
TRF-240
___ 05:10AM BLOOD ALT-35 AST-27 AlkPhos-71 TotBili-0.3
___ 05:15AM BLOOD Ammonia-<10
___ 05:15AM BLOOD Valproa-45*

DISCHARGE LABS
#ERROR!
___ 05:15AM BLOOD WBC-5.6 RBC-3.76* Hgb-9.4* Hct-30.6* 
MCV-81* MCH-25.0* MCHC-30.7* RDW-17.0* RDWSD-50.2* Plt ___
___ 05:15AM BLOOD Plt ___
___ 05:15AM BLOOD Glucose-158* UreaN-34* Creat-1.3* Na-137 
K-5.1 Cl-96 HCO3-29 AnGap-12
___ 05:15AM BLOOD Calcium-9.5 Phos-4.3 Mg-1.8

 
Brief Hospital Course:
___ is a ___ man with history of 
coronary artery disease, chronic kidney disease, hypertension, 
hyperlipidemia, microcytic anemia, and type 2 diabetes mellitus, 
with a recent admission following a fall and syncopal event with 
head strike, found to have right temporal lobe contusion with 
subdural hematoma and component of intraparenchymal hemorrhage, 
who presented from rehab with agitation and confusion of acute 
onset, due to TBI related dementia with behavioral disturbances, 
improved with medication management.

ACUTE ISSUES:
#ERROR!
#Agitation, in the setting of IPH and SDH
In brief, broad workup was negative and presentation was felt to 
be due to medication effect + dementia with behavioral 
disturbances with improvement with changes in medication 
management with recommendations from neurology and geriatrics. 
See below for details:

Patient presented from rehab with new onset agitation concerning 
for derlirium. Recent traumatic IPH and SDH requiring admission 
___ found to be likely due to orthostatic syncopal episode. 
Broad workup for potential infection and metabolic derangements 
was unremarkable. Concern for meningitis initially in ED but 
patient with no fevers, leukocytosis, or evidence of meningeal 
irritation. Per report, the patient had a recent fall at rehab 
on ___ without overt change in mentation. Repeat repeat CT 
head however did show evidence of increased dilatation of 
ventricles raising concern for possible hydrocephalus. No 
evidence of seizure activity based on reports. The patient was 
evaluated by neurosurgery, neurology. Teams agreed that the mild 
dilatation of the ventricles as seen on the CT head would be 
unlikely to contribute to his current symptoms. The patient is 
much more calm and communicable 2 days after admission and 
overtly refused a lumbar puncture even after discussion with his 
daughter who is his healthcare proxy.  Based on patient 
preference, and decision was made to forego a lumbar puncture at 
this time. Neurology felt that the patient's levetiracetam 1000 
mg twice daily may perhaps be contributing to his agitation and 
hence the dose was reduced to 500 mg twice daily initially and 
then was completely stopped after further discussions with 
neurosurgery and neurology. 

After workup, patient was stabilized on a regimen including 
olanzapine, trazodone, Depakote and ramelteon with goal to 
eventually be on monotherapy with depakote. He was often 
reoriented and was placed on delirium precautions.  A speech and 
swallow evaluation showed that the patient was at risk for 
aspiration and was placed on a modified dysphagia diet of ground 
solids and thin liquids.  His citalopram 10 mg was discontinued 
given concern for possible hallucinations prior to presentation. 
 Also, based on collateral information from his daughter (___ 
___ proxy), the patient was previously not on any SSRI. 

RECOMMENDED ONGOING MEDICATION MANAGEMENT:
Taper for olanzapine, trazadone and ramelteon: 
1. Reduce olanzapine to 10 mg 2 weeks after discharge to rehab 
(___), then reduce by 5 mg each week (___) while 
monitoring behavioral changes and having low threshold to stop 
taper 
2. 1 week after olanzapine is discontinued, taper trazadone 
starting at 25 mg (___) then halving to 12.5 mg a week later 
(___) then stopping a week later IF patient continues to sleep 
well and have stable behaviors. 
3. 1 week after trazadone is discontinued (___), reduce 
ramelteon to 4 mg then stopping one week later (___) IF patient 
continues to sleep well and have stable behaviors. 

[] Labwork: check depakote level, CMP, ammonia level, CBC weekly 
for monitoring, particularly with close monitoring of 
creatinine. Please make sure Depakote level is not 
supratherapeutic. Please monitor ammonia level to ensure not 
rising from Depakote toxicity. 

#Fall
#New ___
Patient fell while walking to commode evening of ___. Head 
strike and brief loss of consciousness. Stat Head CT showed new 
extra-axial density along right parietal lobe. Left and right 
temporal lobe encephalomalacia noted in regions of prior 
contusions/IPH.  No acute fractures on xray.  His condition was 
monitored and he was able to walk without further fall events or 
injuries.  Mental status was stable. Patient had a repeat CT 
head on ___ which showed a decrease in size of his SDH. Patient 
should follow up with neurosurgery and neurology.  

#Fever
Initially presented with fevers.  Likely viral in etiology given 
that they subsided within 24 hours after admission. 

___ on CKD
Baseline creatinine ___.  Patient developed ___ after 
reinitiation of lisinopril and metformin in the setting of 
decreased po intake.  His condition improved with IVF. Stopped 
lisinopril and held metformin. Discharge Cr 1.3. 

#HYPERKALEMIA
course c/b hyperkalemia in the setting of reinitiating 
lisinopril and ___, up to peak of 5.3 on whole blood potassium.  
EKG unchanged. Lisinopril was discontinued and he was treated 
with IVF and low potassium diet with improvement. 

CHRONIC ISSUES:
#ERROR!
#HFpEF
New diagnosis at last admission and required IV diuresis at that 
time.  No signs of volume overload on exam without JVD, ___ 
edema, or diffuse crackles other than at the bases.  No 
orthopnea noted.  His volume status was monitored closely and 
his weights were trended daily.  IV diuresis would have been 
considered if he appeared to be volume overloaded however this 
was not the case during his hospital stay.

#HTN
The patient was found to be hypertensive in the 150s likely 
secondary to agitation and was not receiving his home 
antihypertensives (amlodipine 5 mg and lisinopril 40 mg).  
Initially, as the patient's renal function appeared to be at 
baseline he was continued on his home doses of 
antihypertensives.  However, a mild increase in his creatinine 
was noted and hence, his lisinopril was discontinued.  His blood 
pressure was closely monitored with a goal of keeping it below 
160 systolic given recent intraparenchymal hemorrhage and 
subdural hematoma. Amlodipine was increased to 10 mg daily. 
Lisinopril was stopped due to ___, hyperkalemia.  

#Microcytic Anemia
The patient was noted to have microcytic anemia during his prior 
hospitalization with a baseline around 11.  On this admission, 
the patient was noted to be at his baseline hemoglobin.  He was 
also noted to have early ___ and B12 deficiency at last 
hospitalization for his iron studies and B12 levels were 
rechecked but were found to mostly be within normal limits.

#Transaminitis
Mild Transaminitis on labs, held atorvastatin initially and 
improved. Restarted statin prior to discharge. 

#T2DM, insulin dependent
The patient's glargine increased to 20 U QBreakfast, placed on 
standing Humalog ___ with breakfast, lunch, dinner in addition 
to Humalog sliding scale and was continued on pioglitazone 45 
mg. His metformin and linagliptin were held while inpatient. 

#Hyperlipidemia
The patient was continued on atorvastatin 40 mg daily

#CAD
The patient was continued on aspirin 81 mg

#CKD
His creatinine was trended daily and his ACE inhibitor was 
stopped in the setting of an increase in his serum creatinine

#Psoriasis
The patient was continued on his home dose of clobetasol 
proprionate topical ointment

#OA/Chronic pain
Home gabapentin 300 mg twice daily was held in the setting of 
elevated serum creatinine and possibly contributing to delirium. 


TRANSITIONAL ISSUES
#ERROR!
New medications: Depakote, olanzapine, ramelteon, trazodone, 
lansoprazole 
Changed medications: none
Stopped medications: Citalopram, Gabapentin, LevETIRAcetam, 
Lisinopril, omeprazole
[] Labwork: check depakote level, CMP, ammonia level, CBC weekly 
for monitoring, particularly with close monitoring of 
creatinine. Please make sure Depakote level is not 
supratherapeutic. Please monitor ammonia level to ensure not 
rising from Depakote toxicity. 
[] Lisinopril was stopped due to ___, hyperkalemia. Please 
monitor blood pressure. Home amlodipine was increased to 10 mg 
daily. 
[] Metformin held initially due to ___, restarted on discharge. 
Given CKD, renal function should be closely monitored, 
discontinue if GFR drops below 30. 

[] Ensure follow-up with neurology and neurosurgery 
[] Recommended taper for olanzapine, trazadone and Ramelteon per 
Geriatrics: 
Taper for olanzapine, trazadone and ramelteon: 
1. Reduce olanzapine to 10 mg 2 weeks after discharge to rehab 
(___), then reduce by 5 mg each week (___) while 
monitoring behavioral changes and having low threshold to stop 
taper 
2. 1 week after olanzapine is discontinued, taper trazadone 
starting at 25 mg (___) then halving to 12.5 mg a week later 
(___) then stopping a week later IF patient continues to sleep 
well and have stable behaviors. 
3. 1 week after trazadone is discontinued (___), reduce 
ramelteon to 4 mg then stopping one week later (___) IF patient 
continues to sleep well and have stable behaviors. 

[ ] Discharge diet due to dysphagia: moist ground solids with 
thin liquids. Low potassium restriction (2 gm). Please continue 
to reevaluate dysphagia for advancement of diet. 
[ ] Levetiracetam, citalopram and gabapentin stopped given 
possibly contributing to delirium/agitation.  

---------
Mr. ___ is clinically stable for discharge today. The 
total time spent today on discharge planning, counseling and 
coordination of care was greater than 30 minutes.

___ ___
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Citalopram 10 mg PO DAILY 
3. Clobetasol Propionate 0.05% Cream 1 Appl TP BID 
4. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID 
5. Gabapentin 300 mg PO BID 
6. Lisinopril 40 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. amLODIPine 5 mg PO DAILY 
9. Docusate Sodium 100 mg PO BID 
10. LevETIRAcetam 1000 mg PO BID 
11. Polyethylene Glycol 17 g PO DAILY 
12. Senna 8.6 mg PO BID constipation 
13. MetFORMIN (Glucophage) 1000 mg PO BID 
14. Pioglitazone 45 mg PO DAILY 
15. Tradjenta (linagliptin) 5 mg oral DAILY 
16. Aspirin 81 mg PO DAILY 
17. Bisacodyl ___AILY:PRN Constipation 
18. Glargine 14 Units Breakfast

 
Discharge Medications:
1.  Divalproex Sod. Sprinkles 500 mg PO BID Please give at 10am 
and 4pm.   
2.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  
3.  OLANZapine (Disintegrating Tablet) 15 mg PO DAILY give at 
1600  
4.  Ramelteon 8 mg PO QHS:PRN insomnia  
5.  TraZODone 50 mg PO QPM give at 1500  
6.  amLODIPine 5 mg PO DAILY  
7.  Aspirin 81 mg PO DAILY  
8.  Atorvastatin 40 mg PO QPM  
9.  Bisacodyl ___AILY:PRN Constipation  
10.  Clobetasol Propionate 0.05% Cream 1 Appl TP BID  
11.  Clobetasol Propionate 0.05% Ointment 1 Appl TP BID  
12.  Docusate Sodium 100 mg PO BID  
13.  Glargine 14 Units Breakfast 
14.  MetFORMIN (Glucophage) 1000 mg PO BID  
15.  Pioglitazone 45 mg PO DAILY  
16.  Polyethylene Glycol 17 g PO DAILY  
17.  Senna 8.6 mg PO BID constipation  
18.  Tradjenta (linagliptin) 5 mg oral DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses
#ERROR!
Toxic metabolic encephalopathy

Secondary Diagnoses
#ERROR!
Diarrhea
History of intraparenchymal hemorrhage and subdural hematoma in 
the setting of a traumatic fall
Hypertension
Heart failure with preserved ejection fraction
Coronary artery disease
Hyperlipidemia
Diabetes mellitus, type II
Microcytic anemia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you in the hospital!

Why was I admitted to the hospital?
-You came to the hospital from rehab because you were very 
confused and agitated concerning for delirium.

What happened while I was admitted to the hospital?
-Your symptoms of confusion and agitation were worked up for 
various possible causes such as infection, abnormal blood 
numbers etc. but no obvious cause was found
-A scan of your head showed that there was a mild increase in 
the size of fluid-filled spaces in your brain however both 
neurosurgery and neurology services thought that your current 
symptoms were unlikely to be caused by this and felt your 
symptoms were because of the head injury you had recently 
sustained. 
-Chest x-ray did not show any signs of pneumonia or lung 
infection
-It was thought that your acute confusion may have partially 
been caused by your antiseizure medication that was started to 
prevent seizures after your recent head injury, so the 
medication was stopped after discussing with the neurosurgeons
_x0096_Your swallowing was also checked and was found to have 
improved, your diet was changed accordingly.
-Your lab numbers were closely monitored and you were continued 
on your home medications

What should I do after I leave the hospital?
-Please continue taking all of your medications as prescribed, 
details below
-Keep all of your appointments as scheduled 
-You are scheduled to have appointments with neurosurgery and 
neurology
-We also recommend that you establish care with a primary care 
physician who can follow you closely

We wish you the very best! 

Your ___ Care Team
 
Followup Instructions:
___